US07166624B2
(4S)-Benzyl-3-(2-fluoroheptanoyl)oxazolidin-2-one
To a solution of (4S)-benzyl-3-heptanoyl-oxazolidin-2-one (12.0 g, 41.4 mmol) in THF (30 ml) stirred under N2 at −78° C. was added dropwise a solution of lithium bis(trimethylsilyl)amide (50 ml of 1 M soln. in THF, 50 mmol). This was stirred 1 h at −78° C. then added to solution of N-fluorobenzenesulfonamide (14.3 g, 45.5 mmol) in THF (60 ml) stirred under N2 at −78° C. The reaction mixture was stirred 2.5 h at −78° C. then quenched with aqueous amonium chloride. The product mixture was partitioned between EtOAc and water. The organic extract was washed with brine, dried and all volitiles removed. Chromatography on silica (10% EtOAc 90% hexane) afforded 10.08 g (79%) of the title compound. Mass spectrum ES+: 308 [M+H]+

reactant | (4S)-benzyl-3-heptanoyl-oxazolidin-2-one | 41.4 mmol, 12.0 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCCCCC)=O | C17H23NO3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-fluorobenzenesulfonamide | 45.5 mmol, 14.3 g | FNS(=O)(=O)C1=CC=CC=C1 | C6H6FNO2S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (4S)-Benzyl-3-(2-fluoroheptanoyl)oxazolidin-2-one | 10.08 g, 79% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(CCCCC)F)=O | C17H22FNO3
